* C:\Users\12345\Documents\Dev\potentiostat\CAD\LTSpice\CPE\Randles Tester\Randles_Tester.asc
V1 RE 0 PWL file=swv.txt
XX1 WE-RE 0 randles
B1 WE-RE 0 V=1-V(re)

* block symbol definitions
.subckt randles A B
R1 N001 A 230
R2 N002 N001 37.785k
XX1 N001 B cpe1
XX2 N002 B cpe2
.ends randles

.subckt cpe1 A B
R1 A B 6.412486486066959Meg
C1 A N001 2.3655090766818945m
R2 N001 B 4.22741983895789Meg
C2 A N002 1.4274608509243711m
R3 N002 B 1.67962742799552Meg
C3 A N003 861.3978703391572µ
R4 N003 B 667.3451902923115k
C4 A N004 519.8085051119542µ
R5 N004 B 265.14785099560146k
C5 A N005 313.67721153099507µ
R6 N005 B 105.34785282080367k
C6 A N006 189.28777052747355µ
R7 N006 B 41.856534202639345k
C7 A N007 114.22525690145986µ
R8 N007 B 16.630329034202642k
C8 A N008 68.92896079787036µ
R9 N008 B 6.607518970560247k
C9 A N009 41.595018173372345µ
R10 N009 B 2.625282209180706k
C10 A N010 25.100415221937176µ
R11 N010 B 1.043070282287264k
C11 A N011 15.146786129233593µ
R12 N011 B 414.4299648952302
C12 A N012 9.140292222904383µ
R13 N012 B 164.66023308270306
C13 A N013 5.515687698187207µ
R14 N013 B 65.42237447937526
C14 A N014 3.328428680616806µ
R15 N014 B 25.993447248248913
C15 A N015 2.0085324057766334µ
R16 N015 B 10.327648686314557
C16 A N016 1.212044124168307µ
R17 N016 B 4.103354448114615
C17 A N017 731.405156673529n
R18 N017 B 1.6303340903892138
C18 A N018 441.364709866243n
R19 N018 B 647.760089920212m
C19 A B 671.6401428134171n
.ends cpe1

.subckt cpe2 A B
R1 A B 152.28690451341373g
C1 A N001 181.21604919389156n
R2 N001 B 55.18275033852288g
C2 A N002 163.35222877831924n
R3 N002 B 14.677500365520673g
C3 A N003 147.24937865902783n
R4 N003 B 3.9039195338813926g
C4 A N004 132.73390683205375n
R5 N004 B 1.03836398211393g
C5 A N005 119.64933355472706n
R6 N005 B 276.18390952836046Meg
C6 A N006 107.85460446217489n
R7 N006 B 73.45935837169706Meg
C7 A N007 97.22256997253973n
R8 N007 B 19.53871006314831Meg
C8 A N008 87.63861458859019n
R9 N008 B 5.196903422435292Meg
C9 A N009 78.9994213193171n
R10 N009 B 1.3822716594305113Meg
C10 A N010 71.21185790172778n
R11 N010 B 367.6564263665744k
C11 A N011 64.19197281608272n
R12 N011 B 97.78920585287135k
C12 A N012 57.8640902714143n
R13 N012 B 26.009959558820995k
C13 A N013 52.15999440508718n
R14 N013 B 6.918125475621083k
C14 A N014 47.01819390190557n
R15 N014 B 1.8400820650336644k
C15 A N015 42.383259105211465n
R16 N015 B 489.42477525020337
C16 A N016 38.20522447389643n
R17 N016 B 130.17713458575
C17 A N017 34.43904994369196n
R18 N017 B 34.62449640048013
C18 A N018 31.044135386103342n
R19 N018 B 9.209418803093675
C19 A B 283.8770536114015n
.ends cpe2

.tran 0 11 0 0.001
.backanno
.end
