* C:\Users\12345\Documents\Dev\potentiostat\CAD\LTSpice\Control Amp\LT1462\Control Amp LT1462 Transients.asc
XU1 DAC_OUT RE 3.3V 0 CE LT1462
V1 3.3V 0 3.3
V2 DAC_OUT 0 PWL file=swv.txt
R1 CE RE {C}
R2 0 RE {R}
.step param R list 5000 10000 100000
.step param C list 1 1000 5000
.tran 0 9 0 0.01
.lib LTC.lib
.backanno
.end
