*$
* OPAx392
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPAx392
* Date: 30AUG2022
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS926C - JANUARY 2021 - REVISED JULY 2022
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* 1. Moved R_NOISELESS .model inside OPAx392 subckt.
* 2. Updated PSpice Symbol.
*
* Final 1.0
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    a. OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
*    b. UNITY GAIN BANDWIDTH (GBW)
*    c. INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
*    d. POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
*    e. DIFFERENTIAL INPUT IMPEDANCE (Zid)
*    f. COMMON-MODE INPUT IMPEDANCE (Zic)
*    g. OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
*    h. OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
*    i. INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
*    j. INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
*    k. OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
*    l. SHORT-CIRCUIT OUTPUT CURRENT (Isc)
*    m. QUIESCENT CURRENT (Iq)
*    n. SETTLING TIME VS. CAPACITIVE LOAD (ts)
*    o. SLEW RATE (SR)
*    p. SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
*    q. LARGE SIGNAL RESPONSE
*    r. OVERLOAD RECOVERY TIME (tor)
*    s. INPUT BIAS CURRENT (Ib)
*    t. INPUT OFFSET CURRENT (Ios)
*    u. INPUT OFFSET VOLTAGE (Vos)
*    v. INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
*    w. INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
*    x. INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
*    y. INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
* 2. OPAx392 model is available in single core(OPA392), dual core(OPA2392)
*    and quad core (OPA4392).
* 3. Model will show fA bias currents only for symmetrical power supplies and 
*    output at mid-rail voltage.
*****************************************************************************
.SUBCKT OPAx392 IN+ IN- VCC VEE OUT  
*****************************************************************************
C_C1          N3213141 N3213145  482.3F   
C_C13         N3213049 0  1F   
C_C14         N3213027 0  200N   
C_C15         N3213065 0  1F   
C_C16         N3212365 MID  1F   
C_C17         N3212389 MID  1F   
C_C18         N3212435 MID  1F   
C_C19         N3212455 MID  1F   
C_C20         N3212531 MID  1F   
C_C21         N3212549 MID  1F   
C_C22         N3212593 MID  1F   
C_C23         N3212657 MID  1F   
C_C24         N3212653 MID  1F   
C_C25         N3212717 MID  1P   
C_C26         N3212723 MID  1P   
C_C27         SW_OL_OPAx392 MID  1N   
C_C28         VCLP MID  1P   
C_C29         VIMON MID  1P   
C_C30         VOUT_S MID  1P   
C_C34         N3213149 N3213153  5.895P   
C_C35         N3213199 MID  2P   
C_C36         N3213273 N3213277  14.1P   
C_C37         N3213281 N3213285  530.5F   
C_C38         N3213329 MID  40F   
C_C39         N3213411 N3213407  530.5F   
C_C4          N3212279 MID  1F   
C_C40         N3213419 N3213415  14.1P   
C_C41         N3213427 MID  40F   
C_C42         N3213519 N3213523  2P   
C_C43         N3213671 N3213675  530.5N   
C_C6          N3213707 MID  53.05F   
C_CFP1        CLAMP MID  55.55N   
C_CFP2        N3213563 MID  2.138F   
C_C_COM0      ESDP MID  3.5P   
C_C_COM1      ESDN MID  3.5P   
C_C_DIFF      ESDN ESDP  2.8P   
E_E1          MID 0 N3213027 0 1
E_E2          N3212779 MID CL_CLAMP MID 1
E_E3          N3212817 MID OUT MID 1
G_G18         VCC_B 0 VCC 0 -1
G_G19         VEE_B 0 VEE 0 -1
G_G2          N3212175 N3212167 N3213201 MID -1M
G_G20         VCC_CLP MID N3212657 MID -1M
G_G21         VEE_CLP MID N3212653 MID -1M
G_G22         N3212951 MID N3212947 MID -1
G_G23         N3212975 MID N3212983 MID -1
G_G5          N3212209 N3212205 N3212203 N3212199 -1M
G_G_ADJ1      N3213141 MID ESDP MID -15.15M
G_G_ADJ10     N3213411 MID N3213415 MID -1.667
G_G_ADJ11     N3213403 MID N3213407 MID -1
G_G_ADJ12     N3212203 MID N3213395 MID -1
G_G_ADJ2      N3213149 MID N3213145 MID -1.852
G_G_ADJ3      N3213157 MID N3213153 MID -1
G_G_ADJ4      N3213201 MID N3213161 MID -1
G_G_ADJ5      N3213273 MID VEE_B MID -1.409
G_G_ADJ6      N3213281 MID N3213277 MID -1.667
G_G_ADJ7      N3213289 MID N3213285 MID -1
G_G_ADJ8      N3212199 MID N3213293 MID -1
G_G_ADJ9      N3213419 MID VCC_B MID -1.409
G_G_AOL1      VSENSE MID CLAMP MID -1M
G_G_AOL2      N3213519 MID VSENSE MID -1.063
G_G_AOL3      N3213563 MID N3213523 MID -1U
G_G_AOL4      CLAW_CLAMP MID N3213563 MID -1M
G_G_AOL5      CL_CLAMP MID CLAW_CLAMP MID -1M
G_G_ZO1       N3213671 MID CL_CLAMP N3212319 -88.9
G_G_ZO2       N3213679 MID N3213675 MID -4.77
I_I_B         N3212153 MID DC 5F  
I_I_OS        ESDN MID DC -5F  
I_I_Q         VCC VEE DC 1.22M  
R_R1          N3213161 N3213157 R_NOISELESS 6K
R_R100        N3213285 N3213281 R_NOISELESS 10K
R_R101        MID N3213273 R_NOISELESS 1
R_R102        MID N3213277 R_NOISELESS 282.5
R_R103        MID N3213281 R_NOISELESS 1
R_R104        MID N3213285 R_NOISELESS 15K
R_R105        MID N3213289 R_NOISELESS 1
R_R106        MID N3212199 R_NOISELESS 1
R_R107        N3213407 N3213411 R_NOISELESS 10K
R_R108        N3213415 N3213419 R_NOISELESS 100MEG
R_R109        MID N3212203 R_NOISELESS 1
R_R11         N3213683 N3213679 R_NOISELESS 10K
R_R110        MID N3213403 R_NOISELESS 1
R_R111        MID N3213407 R_NOISELESS 15K
R_R112        MID N3213411 R_NOISELESS 1
R_R113        MID N3213415 R_NOISELESS 282.5
R_R114        MID N3213419 R_NOISELESS 1
R_R115        MID VSENSE R_NOISELESS 1K
R_R116        MID N3213519 R_NOISELESS 1
R_R117        MID N3213523 R_NOISELESS 160K
R_R118        MID N3213563 R_NOISELESS 1MEG
R_R119        MID CLAW_CLAMP R_NOISELESS 1K
R_R12         N3213707 N3213683 R_NOISELESS 10K
R_R120        MID CL_CLAMP R_NOISELESS 1K
R_R121        MID N3213671 R_NOISELESS 1
R_R13         N3213523 N3213519 R_NOISELESS 10K
R_R14         N3213675 N3213671 R_NOISELESS 100K
R_R15         N3212205 N3212175 R_NOISELESS 1M
R_R16         N3212209 N3212205 R_NOISELESS 1K
R_R17         N3212241 ESDN R_NOISELESS 1M
R_R18         MID N3212245 R_NOISELESS 1T
R_R19         MID N3212257 R_NOISELESS 1T
R_R2          N3213161 N3213199 R_NOISELESS 10K
R_R20         N3212265 MID R_NOISELESS 1
R_R21         N3212279 N3212265 R_NOISELESS 1M
R_R22         MID N3212289 R_NOISELESS 1MEG
R_R23         MID N3213675 R_NOISELESS 26.6K
R_R24         MID N3213679 R_NOISELESS 1
R_R25         MID N3213709 R_NOISELESS 1
R_R3          N3213145 N3213141 R_NOISELESS 100MEG
R_R4          N3213153 N3213149 R_NOISELESS 10K
R_R44         N3213395 N3213403 R_NOISELESS 96K
R_R45         N3213395 N3213427 R_NOISELESS 10K
R_R46         VCC_B 0 R_NOISELESS 1
R_R47         VCC_B N3213049 R_NOISELESS 1M
R_R48         N3213049 N3213027 R_NOISELESS 1MEG
R_R49         N3213027 0 R_NOISELESS 1T
R_R5          MID N3213141 R_NOISELESS 1
R_R50         N3213027 N3213065 R_NOISELESS 1MEG
R_R51         N3213065 VEE_B R_NOISELESS 1M
R_R52         VEE_B 0 R_NOISELESS 1
R_R53         VCC_CLP MID R_NOISELESS 1T
R_R54         N3212353 MID R_NOISELESS 1
R_R55         N3212365 N3212353 R_NOISELESS 1M
R_R56         VEE_CLP MID R_NOISELESS 1T
R_R57         N3212387 MID R_NOISELESS 1
R_R58         N3212389 N3212387 R_NOISELESS 1M
R_R59         N3212431 MID R_NOISELESS 1T
R_R6          MID N3213145 R_NOISELESS 66K
R_R60         N3212433 MID R_NOISELESS 1
R_R61         N3212435 N3212433 R_NOISELESS 1M
R_R62         N3212455 N3212461 R_NOISELESS 1M
R_R63         N3212473 MID R_NOISELESS 1T
R_R64         N3212461 MID R_NOISELESS 1
R_R65         N3212525 MID R_NOISELESS 1T
R_R66         N3212529 MID R_NOISELESS 1
R_R67         N3212531 N3212529 R_NOISELESS 1M
R_R68         N3212549 N3212555 R_NOISELESS 1M
R_R69         N3212567 MID R_NOISELESS 1T
R_R7          MID N3213149 R_NOISELESS 1
R_R70         N3212555 MID R_NOISELESS 1
R_R71         N3212593 VSENSE R_NOISELESS 1M
R_R72         VCC_B N3212621 R_NOISELESS 1K
R_R73         N3212621 N3212657 R_NOISELESS 1M
R_R74         N3212625 VEE_B R_NOISELESS 1K
R_R75         N3212625 N3212653 R_NOISELESS 1M
R_R76         MID VCC_CLP R_NOISELESS 1K
R_R77         VEE_CLP MID R_NOISELESS 1K
R_R78         N3212975 MID R_NOISELESS 1
R_R79         N3212951 MID R_NOISELESS 1
R_R8          N3212175 N3212167 R_NOISELESS 1K
R_R80         V11 N3212717 R_NOISELESS 100
R_R81         V12 N3212723 R_NOISELESS 100
R_R82         N3212729 MID R_NOISELESS 1
R_R83         N3212729 SW_OL_OPAx392 R_NOISELESS 100
R_R84         N3212779 VCLP R_NOISELESS 100
R_R94         MID N3213153 R_NOISELESS 11.74K
R_R95         MID N3213157 R_NOISELESS 1
R_R96         MID N3213201 R_NOISELESS 1
R_R97         N3213293 N3213289 R_NOISELESS 96K
R_R98         N3213293 N3213329 R_NOISELESS 10K
R_R99         N3213277 N3213273 R_NOISELESS 100MEG
R_RDUMMY1     MID N3212319 R_NOISELESS 5K
R_RS_INN      IN- ESDN R_NOISELESS 10
R_RS_INP      IN+ ESDP R_NOISELESS 10
R_RX1         MID N3212805 R_NOISELESS 1T
R_RX2         VIMON N3212805 R_NOISELESS 100
R_RX3         MID N3212817 R_NOISELESS 1T
R_RX4         VOUT_S N3212817 R_NOISELESS 100
R_RX5         N3212319 N3213709 R_NOISELESS 50K
R_R_CM1       ESDP MID R_NOISELESS 100T
R_R_CM2       MID ESDN R_NOISELESS 100T
R_R_SR1       MID CLAMP R_NOISELESS 1MEG
V_VCM_MAX     N3212245 VCC_B 0
V_VCM_MIN     N3212257 VEE_B 0
V_V_GRN       N3212567 MID -35
V_V_GRP       N3212525 MID 40
V_V_ISCN      N3212473 MID -55
V_V_ISCP      N3212431 MID 66
V_V_ORN       N3212947 VCLP -1.62
V_V_ORP       N3212983 VCLP 2.1
X_H1          N3212319 OUT N3212805 MID BLOCK_DC_H1_OPAx392 
X_H2          N3212939 N3212975 V12 MID BLOCK_DC_H2_OPAx392 
X_H3          N3212919 N3212951 V11 MID BLOCK_DC_H3_OPAx392 
X_S1          N3212919 CLAMP N3212919 CLAMP BLOCK_DC_S1_OPAx392 
X_S2          CLAMP N3212939 CLAMP N3212939 BLOCK_DC_S2_OPAx392 
X_U1          ESDP N3212153 VNSE_OPAx392 PARAMS: FLW=0.1 GLF=0.203 RNV=21.285
X_U10         VCC_CLP VEE_CLP VOUT_S MID N3212353 N3212387 CLAMP_AMP_LO_OPAx392 PARAMS:
+  G=1
X_U11         N3212431 N3212473 VIMON MID N3212433 N3212461 CLAMP_AMP_LO_OPAx392
+  PARAMS: G=1
X_U12         N3212525 N3212567 N3212593 MID N3212529 N3212555 CLAMP_AMP_HI_OPAx392
+  PARAMS: G=10
X_U16         MID N3212729 N3212717 N3212723 OL_SENSE_OPAx392
X_U18         VIMON MID N3212621 VCC_B CLAWP_OPAx392
X_U19         MID VIMON VEE_B N3212625 CLAWN_OPAx392
X_U21         OUT VCC VEE ESD_OUT_OPAx392
X_U22         N3212435 N3212455 CL_CLAMP MID CL_SRC_OPAx392 PARAMS: GAIN=1 IPOS=0.16E2
+  INEG=-0.16E2
X_U23         N3212531 N3212549 CLAMP MID GR_SRC_OPAx392 PARAMS: GAIN=1 IPOS=0.4E2
+  INEG=-0.5E2
X_U25         SW_OL_OPAx392 MID N3213671 N3213675 SW_OL_OPAx392
X_U26         VIMON MID VCC MID IQ_SRC_OPAx392 PARAMS: GAIN=1E-3
X_U27         MID VIMON MID VEE IQ_SRC_OPAx392 PARAMS: GAIN=1E-3
X_U30         N3212279 N3212241 MID N3212289 AOL_1_OPAx392 PARAMS: GAIN=5.01E-3 IPOS=.5
+  INEG=-.5
X_U31         N3212289 MID MID CLAMP AOL_2_OPAx392 PARAMS: GAIN=9.4E-4 IPOS=0.2018
+  INEG=-0.2595
X_U35         N3212365 N3212389 CLAW_CLAMP MID CLAW_SRC_OPAx392 PARAMS: GAIN=1
+  IPOS=0.08E2 INEG=-0.08E2
X_U36         N3212153 MID FEMT_OPAx392 PARAMS: NVRF=70.7
X_U37         ESDN MID FEMT_OPAx392 PARAMS: NVRF=70.7
X_U38         N3213683 MID MID N3213709 ZO_SRC_OPAx392 PARAMS: GAIN=1 IPOS=6.5E4
+  INEG=-5.5E4
X_U4          N3212167 N3212153 VOS_DRIFT_OPAx392 PARAMS: DC=-17.87E-6 POL=1
+  DRIFT=0.16E-06
X_U5          ESDN ESDP VCC VEE ESD_IN_OPAx392
X_U6          N3212209 MID N3212265 MID N3212245 N3212257 VCM_CLAMP_OPAx392 PARAMS:
+  GAIN=1
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.ENDS OPAx392
*
.SUBCKT BLOCK_DC_H1_OPAx392 1 2 3 4  
H_H1         3 4 VH_H1 1K
VH_H1         1 2 0V
.ENDS  BLOCK_DC_H1_OPAx392
*
.SUBCKT BLOCK_DC_H2_OPAx392 1 2 3 4  
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ENDS  BLOCK_DC_H2_OPAx392
*
.SUBCKT BLOCK_DC_H3_OPAx392 1 2 3 4  
H_H3         3 4 VH_H3 -1
VH_H3         1 2 0V
.ENDS  BLOCK_DC_H3_OPAx392
*
.SUBCKT BLOCK_DC_S1_OPAx392 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S1_OPAx392
*
.SUBCKT BLOCK_DC_S2_OPAx392 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S2_OPAx392
*
.SUBCKT AOL_1_OPAx392 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=5.01E-3 IPOS=.5 INEG=-.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_OPAx392
*
.SUBCKT AOL_2_OPAx392 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=9.4E-4 IPOS=0.2018 INEG=-0.2595
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_OPAx392
*
.SUBCKT CLAMP_AMP_HI_OPAx392 VC+ VC- VIN COM VO+ VO- PARAMS: G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_HI_OPAx392
*
.SUBCKT CLAMP_AMP_LO_OPAx392 VC+ VC- VIN COM VO+ VO- PARAMS: G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_OPAx392
*
.SUBCKT CLAWN_OPAx392 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 5.63E-6)
+(20.00, 3.92E-4)
+(27.00, 5.52E-4)
+(33.00, 7.07E-4)
+(38.00, 8.56E-4)
+(43.00, 1.04E-3)
+(46.00, 1.17E-3)
+(49.00, 1.33E-3)
+(51.00, 1.47E-3)
+(52.50, 1.61E-3)
+(53.50, 1.74E-3)
+(54.50, 1.95E-3)
+(55.00, 2.75E-3)
.ENDS  CLAWN_OPAx392
*
.SUBCKT CLAWP_OPAx392 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0.00, 2.52E-5)
+(1.50, 2.65E-5)
+(14.00, 2.47E-4)
+(24.25, 4.49E-4)
+(37.25, 7.49E-4)
+(44.25, 9.46E-4)
+(50.25, 1.15E-3)
+(55.00, 1.35E-3)
+(58.75, 1.56E-3)
+(61.25, 1.75E-3)
+(63.00, 1.93E-3)
+(64.00, 2.08E-3)
+(65.00, 2.29E-3)
+(66.00, 2.75E-3)
.ENDS  CLAWP_OPAx392
*
.SUBCKT CLAW_SRC_OPAx392 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.08E2 INEG=-0.08E2
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_OPAx392
*
.SUBCKT CL_SRC_OPAx392 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.16E2 INEG=-0.16E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CL_SRC_OPAx392
*
.SUBCKT ESD_IN_OPAx392 ESDN ESDP VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=100E-3)
S1 ESDN VCC ESDN VCC ESD_SW
S2 ESDP VCC ESDP VCC ESD_SW
S3 VEE ESDN VEE ESDN ESD_SW
S4 VEE ESDP VEE ESDP ESD_SW
.ENDS  ESD_IN_OPAx392
*
.SUBCKT ESD_OUT_OPAx392 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=100E-3)
S1 OUT VCC OUT VCC ESD_SW
S2 VEE OUT VEE OUT ESD_SW
.ENDS  ESD_OUT_OPAx392
*
.SUBCKT FEMT_OPAx392 1 2 PARAMS: NVRF=70.7
E1 3 0 5 0 10
R1 5 0 {1.184*PWR(NVRF,2)}
R2 5 0 {1.184*PWR(NVRF,2)}
G1 1 2 3 0 1E-6
.ENDS  FEMT_OPAx392
*
.SUBCKT GR_SRC_OPAx392 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.4E2 INEG=-0.5E2
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  GR_SRC_OPAx392
*
.SUBCKT IQ_SRC_OPAx392 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_OPAx392
*
.SUBCKT OL_SENSE_OPAx392 COM SW+ OLN OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS  OL_SENSE_OPAx392
*
.SUBCKT SW_OL_OPAx392 SW_OL_OPAx392 MID CAP_L CAP_R
.MODEL OL_SW VSWITCH(RON=1E-3 ROFF=1E12 VON=900E-3 VOFF=800E-3)
S1 CAP_L CAP_R SW_OL_OPAx392 MID OL_SW
.ENDS  SW_OL_OPAx392
*
.SUBCKT VCM_CLAMP_OPAx392 VIN+ VIN- IOUT- IOUT+ VP+ VP- PARAMS: GAIN=1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_OPAx392
*
.SUBCKT VNSE_OPAx392 1 2 PARAMS: FLW=0.1 GLF=0.203 RNV=21.285
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_OPAx392
*
.SUBCKT VOS_DRIFT_OPAx392 VOS+ VOS- PARAMS: DC=-17.87E-6 POL=1 DRIFT=0.16E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_OPAx392
*
.SUBCKT ZO_SRC_OPAx392 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=6.5E4 INEG=-5.5E4
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  ZO_SRC_OPAx392
*
